US07951838B2
2,2,6,6-Tetramethylpiperidine (8.26 ml, 49.0 mmol) was dissolved with 270 ml THF and 1-butyllithium (14.1 ml, 35.4 mmol) was added at −78° C. The mixture was stirred for 10 min in an ice bath and cooled back to −78° C. A solution of 2-(2-fluoro-2-methylpropyl)-5-(methoxymethoxy)pyridine (5.8000 g, 27.2 mmol) in 20 ml THF was added dropwise and the reaction was stirred for 20 min. Acetylaldehyde (7.65 ml, 136 mmol) was added to the dark red solution and the color disappeared. Stirring was continued for 20 min and the mixture was hydrolyzed with 50 ml of water. The mixture was warmed to RT and extracted 3× with CH2Cl2 (300 ml each). The combined organic extracts were dried over MgSO4 and evaporated and purified via glass col. chrom. (30-80% EtOAc in hex.) to provide 1-(2-(2-fluoro-2-methylpropyl)-5-(methoxymethoxy)pyridin-4-yl)ethanol a white solid. MS m/z: 258.2 (M+1).

reactant | 2,2,6,6-Tetramethylpiperidine | 49.0 mmol, 8.26 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-butyllithium | 35.4 mmol, 14.1 ml | C(CCC)[Li]
reactant | 2-(2-fluoro-2-methylpropyl)-5-(methoxymethoxy)pyridine | 27.2 mmol, 5.8000 g | FC(CC1=NC=C(C=C1)OCOC)(C)C | C11H16FNO2
reactant | water | 50 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 270 ml | C1CCOC1 | C4H8O
product | 1-(2-(2-fluoro-2-methylpropyl)-5-(methoxymethoxy)pyridin-4-yl)ethanol | FC(CC1=NC=C(C(=C1)C(C)O)OCOC)(C)C | C13H20FNO3
